US05071876
Preparation of N-(2 6-diethylphenyl)-2-propenamide
To a cold solution of 2,6-diethylaniline (60.6 g, 0.407 mole) in ethyl acetate (600 ml) was added a solution of acryloyl chloride (45.2 g, 0.5 mole) in ethyl acetate (50 ml) over a 30 minute period. The ice bath was removed and the solution stirred for 4 hours. 10 Percent hydrochloric acid was added and the solution stirred gently for 15 minutes. The layers were separated and the organic layer washed with water, dried over sodium sulfate, filtered and the solvents removed on a rotary evaporator leaving an orange solid. The solid was recrystallized from ethyl acetate/hexane and the product filtered and dried.

reactant | 2,6-diethylaniline | 0.407 mole, 60.6 g | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | acryloyl chloride | 0.5 mole, 45.2 g | C(C=C)(=O)Cl | C3H3ClO
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(2 6-diethylphenyl)-2-propenamide | C(C)C1=C(C(=CC=C1)CC)NC(C=C)=O | C13H17NO
